US06251921B1
Preparation of 6-Hydroxy-2-[4-[2-(1-pyrrolidinyl)ethoxy]phenyl]-3-[4-[(1-pyrrolidinyl)methyl]benzyl]benzo[b]thiophene
6-Methoxy-2-[4-[2-(1-pyrrolidinyl)ethoxy]phenyl]-3-[4-[(1-pyrrolidinyl)methyl]benzyl]benzo[b]thiophene (35 mg, 0.066 mmol) in dichloroethane (2 mL) at 0° C. under argon was treated with ethanethiol (0.1 mL) and aluminum chloride (98 mg) for 3 h before quenching with saturated aqueous sodium bicarbonate solution (5 mL). The stirring was allowed to continue for 1 h at ambient temperature. The resulting mixture was diluted with saturated aqueous sodium bicarbonate solution (50 mL) and extracted with dichloromethane (50 mL×3). The combined organic layers were dried (Na2SO4) and concentrated under reduced pressure. Chromatography with Et3N:MeOH:EtOAc (5:5:90) afforded the title compound as a white foam (25 mg, 73%).

reactant | 6-Methoxy-2-[4-[2-(1-pyrrolidinyl)ethoxy]phenyl]-3-[4-[(1-pyrrolidinyl)methyl]benzyl]benzo[b]thiophene | 0.066 mmol, 35 mg | COC=1C=CC2=C(SC(=C2CC2=CC=C(C=C2)CN2CCCC2)C2=CC=C(C=C2)OCCN2CCCC2)C1 | C33H38N2O2S
reactant | ethanethiol | 0.1 mL | C(C)S | C2H6S
reactant | aluminum chloride | 98 mg | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | dichloroethane | 2 mL | ClC(C)Cl | C2H4Cl2
product | 6-Hydroxy-2-[4-[2-(1-pyrrolidinyl)ethoxy]phenyl]-3-[4-[(1-pyrrolidinyl)methyl]benzyl]benzo[b]thiophene | 25 mg, 73% | OC=1C=CC2=C(SC(=C2CC2=CC=C(C=C2)CN2CCCC2)C2=CC=C(C=C2)OCCN2CCCC2)C1 | C32H36N2O2S
